US07329752B2
b. Preparation of N-(2-aminophenyl)-N-isopropylamine
To a mixture of ethanol (600 mL) and 2 M sodium hydroxide solution (320 mL) cooled in an ice bath was added Zn dust (59.5 g) slowly. While stirring the Zn slurry, N-isopropyl-N-(2-nitrophenyl)amine (41 g, 0.228 mol) dissolved in ethanol (50 mL) was added. The mixture was stirred at 0° C. for 30 min, then heated to 85° C. The mixture was stirred at 85° C. for about 12 h until the refluxing solution of the mixture became a colorless solution. The mixture was then cooled to 0° C. and filtered. The collected solid was rinsed with EtOAc (200 mL). The filtrate and rinsed solution were combined, and evaporated in vacuo to remove excess volatile solvents. During the concentration, the mixture became pale brown/yellow. The aqueous concentrate was extracted with EtOAc (800 mL). The organic solution was concentrated to dryness, to provide the title intermediate (33 g) as a brown-pink oil which was used in the next step without further treatment. 1H-NMR (CDCl3, 300 MHz): δ (ppm) 6.73-6.5 (m, 4H), 3.58-3.55 (hept, 1H), 1.2 (d, 6H).

reactant | sodium hydroxide | 2 M, 320 mL | [OH-].[Na+]
reactant | N-isopropyl-N-(2-nitrophenyl)amine | 0.228 mol, 41 g | C(C)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Zn | 59.5 g | [Zn] | Zn
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | N-(2-aminophenyl)-N-isopropylamine | 33 g | NC1=C(C=CC=C1)NC(C)C | C9H14N2
